* source YAMAHA
C_C7         N02915 N03011  1n  
C_C13         N03702 N06531  100p  
C_C9         N00733 0  680u  
C_C14         N02353 N02382  10u  
R_R6         N01558 N01501  220  
R_R16         N01558 N04763  100  
R_R24         N03011 N07737  0.22  
Q_Q125         N01287 N00893 N00839 Q2SA893
R_R3         N00839 N00733  560  
V_V1         N06531 0 52Vdc
R_R13         N01558 N00272  10k  
Q_Q117         N03702 N05126 N04697 Q2SD1915
Q_Q14         N05802 N06963 N08456 Q2SA1302 
C_C1         N02382 N02353  220p  
V_V2         0 N05802 52Vdc
R_R12         N04080 N00893  100k  
R_R187         N06437 N17268  4.7  
Q_Q11         N05802 N04697 N07086 Q2SA1368
R_R26         N07200 N07086  4.7  
Q_Q1         N00272 N02353 N01287 Q2SA970
C_C115         N03702 N04697  47u  
R_R111C         N03011 N074272  0.22  
C_C2         N02353 N02915  100p  
R_R15         N01558 N04231  470  
Q_Q6         N01118 N00893 N03702 Q2SA1145
C_C8         N04231 N00272  1n  
C_C3         0 N02353  47p  
Q_Q10         N04697 N04080 N04763 Q2SC2705
Q_Q2         N00241 N02915 N01287 Q2SA970
Q_Q119C         N06531 N03702 N06437 Q2SC3438
V_V4         N02413 0  
+SIN 0 1 1k 0 0 0
C_C10         0 N01558  680u  
R_R34         0 N03011  8  
R_R4         N01118 N00733  100  
D_D1         N00733 N005931 D1SS104 
R_R31         N06437 N08166  4.7  
Q_Q3         N00272 N00241 N01472 Q2SC1815
R_R28         N07086 N06963  4.7  
R_R17         N05126 N03702  2.7k  
R_R7         N02413 N02382  100  
D_D2         N005931 N00893 D1SS104 
Q_Q4         N00241 N00241 N01501 Q2SC1815
R_R188         N00733 N06531  47  
Q_Q15         N05802 N07200 N08485 Q2SA1302 
R_R18         N04697 N05126  820  
R_R8         0 N02413  150k  
R_R32         N08456 N03011  0.22  
Q_Q16         N06531 N08166 N07737 Q2SC3281 
R_R111A         N08485 N03011  0.22  
Q_Q8         N04763 N00272 N04080 Q2SA1015
R_R9         N02915 N03011  1k  
R_R22         N01558 N05802  47  
R_R11         0 N03243  1k  
Q_Q17         N06531 N17268 N074272 Q2SC3281 
C_C113         N05802 N04697  100p  
R_R21         0 N04697  47k  
C_C6         N02915 N03243  220u  
D_D3         N00272 N00241 D1SS104 
R_R5         N01558 N01472  220  
R_R2         N07086 N06437  220  
R_R10         N02353 N03243  39k  
